US05646283
3,4-Dihydro-7-fluoro-6-(4-fluorophenyl)-1(2H)-naphthalenone (compound bb):
Using 1.50 g (4.80 mmol) of 3,4-dihydro-7-fluoro-6-trifluoromethylsulfonyloxy-1(2H)-naphthalenone and 1.85 g (4.80 mmol) of 4-fluorophenyltributyltin, the same reaction as described in Reference Example 1 was carried out to obtain 0.76 g of the above-mentioned compound (yield 61%).

reactant | 3,4-dihydro-7-fluoro-6-trifluoromethylsulfonyloxy-1(2H)-naphthalenone | 4.80 mmol, 1.50 g | FC1=C(C=C2CCCC(C2=C1)=O)OS(=O)(=O)C(F)(F)F | C11H8F4O4S
reactant | 4-fluorophenyltributyltin | 4.80 mmol, 1.85 g | FC1=CC=C(C=C1)[Sn](CCCC)(CCCC)CCCC
product | 3,4-Dihydro-7-fluoro-6-(4-fluorophenyl)-1(2H)-naphthalenone | 0.76 g, yield 61% | FC1=C(C=C2CCCC(C2=C1)=O)C1=CC=C(C=C1)F | C16H12F2O
